US05053426
Pantethine acetonide, 11
A mixture of 1.0 g of D-pantethine, 5 ml of 2,2-dimethoxypropane, 5 drops of trifluoroacetic acid and 5 ml of acetone was stirred for 2 days and then evaporated. The resulting white foam was purified by flash chromatography [dichloromethane:methanol (10:1)], giving 1.0 g of the desired compound as a white hygroscopic foam.

reactant | D-pantethine | 1.0 g | CC(C)(CO)[C@H](C(=O)NCCC(=O)NCCSSCCNC(=O)CCNC(=O)[C@@H](C(C)(C)CO)O)O | C22H42N4O8S2
reactant | 2,2-dimethoxypropane | 5 ml | COC(C)(C)OC | C5H12O2
catalyst | trifluoroacetic acid | 5 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | Pantethine acetonide | 1.0 g | CC(C)(CO)[C@H](C(=O)NCCC(=O)NCCSSCCNC(=O)CCNC(=O)[C@@H](C(C)(C)CO)O)O.[CH2-]C(=O)C | InChI=1S/C22H42N4O8S2.C3H5O/c1-21(2,13-27)17(31)19(33)25-7-5-15(29)23-9-11-35-36-12-10-24-16(30)6-8-26-20(34)18(32)22(3,4)14-28;1-3(2)4/h17-18,27-28,31-32H,5-14H2,1-4H3,(H,23,29)(H,24,30)(H,25,33)(H,26,34);1H2,2H3/q;-1/t17-,18-;/m0./s1
